US07947738B2
(40-a) [(1S,5R,6R)-6-{[(tert-butoxycarbonyl)amino]methyl}-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid
[(1S,5R,6R)-6-(aminomethyl)-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid p-toluenesulfonate (2.48 g, 6.50 mmol) was dissolved in a mixed solution of water (6.5 mL), a 1 M aqueous sodium hydroxide solution (10 mL), and 1,4-dioxane (13 mL). To the solution, di-tert-butyl dicarbonate (2.84 g, 13.0 mmol) was added with stirring at room temperature. The mixture was stirred overnight at this temperature, and the reaction solution was then made acidic by the addition of 1 M citric acid, followed by extraction with methylene chloride. The organic layer was washed with saturated saline and dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure to obtain the compound of interest as an oil substance (2.01 g, >99%).

reactant | [(1S,5R,6R)-6-(aminomethyl)-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid p-toluenesulfonate | 6.50 mmol, 2.48 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC[C@@]1([C@H]2C=C(C[C@H]2C1)CC)CC(=O)O
reactant | sodium hydroxide | 1 M, 10 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 13.0 mmol, 2.84 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | 1 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 6.5 mL | O | H2O
solvent | 1,4-dioxane | 13 mL | O1CCOCC1 | C4H8O2
product | [(1S,5R,6R)-6-{[(tert-butoxycarbonyl)amino]methyl}-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid | C(C)(C)(C)OC(=O)NC[C@@]1([C@H]2C=C(C[C@H]2C1)CC)CC(=O)O | C17H27NO4
